US03951922
A total of 3.25 g of sodium azide was added in portions to a solution of 10.5 g of 4-chlorocarbonylphthalic anhydride in 100 ml of acetone. The mixture was allowed to stand for 17 hours at room temperature (circa 25°C) after which the yellow solution so obtained was evaporated to dryness under reduced pressure. There was thus obtained a substantially quantitative yield of 4-azidocarbonylphthalic anhydride in the form of a crystalline solid having a melting point of 100° to 103°C with decomposition.

reactant | sodium azide | 3.25 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-chlorocarbonylphthalic anhydride | 10.5 g | ClC(=O)C=1C=C2C(C(=O)OC2=O)=CC1 | C9H3ClO4
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-azidocarbonylphthalic anhydride | quantitative yield | N(=[N+]=[N-])C(=O)C=1C=C2C(C(=O)OC2=O)=CC1 | C9H3N3O4
